US05279951
50 mg of wet cells were added to 1 ml of a reaction solution for measurement of the tryoptophanase activity (0.1M phosphate buffer pH 8.0, 10 mM tryptophan, 0.1% Triton X-100), and reacted at 37° C. for 30 minutes. Indole formed was reacted with p-dimethylbenzaldehyde and spectrophotometically quantitated. Some strains exhibit high activity and from these cells a plasmid was extracted by the alkaline SDS method. [T. Maniatis, E. F. Fritsch and J. Sambrook: "Molecular Cloning" (1982) pages 90 to 91] and digested with BamHI and HindIII. Fragment length of the digest was determined by using an agarose gel. It was found that a DNA fragment of about 3.2 kb was inserted into the HindIII and BamHI sites of pBR322 (this plasmid will be referred to as pBR322tna).

reactant | phosphate | 0.1M, pH 8.0 | P(=O)([O-])([O-])[O-]
reactant | X-100 | CCC(CC)COC(C1=CC=CC=C1)(C2=CC=CC=C2)C(=O)N(C)CC[NH+](C)C.[Cl-]
product | Indole | N1C=CC2=CC=CC=C12 | C8H7N
